US04061761
a. 5-Bromo-2-chloroaniline
90 g of 5-bromo-2-chloronitrobenzene were hydrogenated in 500 ml of methanol at room temperature and under normal pressure with Raney-Nickel as catalyst and hydrogen. Colorless crystals, melting point: 47° C.

reactant | 5-bromo-2-chloronitrobenzene | 90 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])Cl | C6H3BrClNO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 500 ml | CO | CH4O
catalyst | Raney-Nickel | [Ni] | Ni
product | 5-Bromo-2-chloroaniline | BrC=1C=CC(=C(N)C1)Cl | C6H5BrClN
